US08211907B2
(−)-(4aR*,9bR*)-4a-Ethyl-2,3,4,4a,5,9b-hexahydro-1H-indeno[1,2-b]pyridine and (+)-(4aR*,9bR*)-4a-ethyl-2,3,4,4a,5,9b-hexahydro-1H-indeno[1,2-b]pyridine were each made into a hydrochloride by a conventional method, washed with ethyl acetate, and then collected by filtration to obtain (4aR*,9bR*)-4a-ethyl-2,3,4,4a,5,9b-hexahydro-1H-indeno[1,2-b]pyridine hydrochloride and an enantiomer thereof, respectively, as a colorless powder.

reactant | (−)-(4aR*,9bR*)-4a-Ethyl-2,3,4,4a,5,9b-hexahydro-1H-indeno[1,2-b]pyridine | C(C)[C@@]12[C@@H](NCCC1)C1=CC=CC=C1C2 | C14H19N
reactant | hydrochloride | Cl | ClH
product | (4aR*,9bR*)-4a-ethyl-2,3,4,4a,5,9b-hexahydro-1H-indeno[1,2-b]pyridine hydrochloride | Cl.C(C)[C@@]12[C@@H](NCCC1)C1=CC=CC=C1C2 | InChI=1S/C14H19N.ClH/c1-2-14-8-5-9-15-13(14)12-7-4-3-6-11(12)10-14;/h3-4,6-7,13,15H,2,5,8-10H2,1H3;1H/t13-,14+;/m0./s1
